US07741321B2
To N-(6-chloro-5-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide (4.00 g, 17.7 mmol) was added 6 N HCl (20 mL) at room temperature. The mixture was stirred at 80° C. for 12 hours. The reaction mixture was basified with drop-wise addition of sat. NaHCO3 to pH 8-9, and then the mixture was extracted with CH2Cl2 (3×). The organic phases were dried over Na2SO4 and evaporated under vacuum to obtain the 6-chloro-5-methyl-pyridin-2-ylamine (900 mg, 36%). 1H NMR (400 MHz, CDCl3) δ 7.28 (d, J=8.0 Hz, 1H), 6.35 (d, J=8.0 Hz, 1H), 4.39 (br s, 2H), 2.22 (s, 3H). MS (ESI) m/z: 143 (M+H+).

reactant | N-(6-chloro-5-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 17.7 mmol, 4.00 g | ClC1=C(C=CC(=N1)NC(C(C)(C)C)=O)C | C11H15ClN2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | HCl | 6 N, 20 mL | Cl | ClH
product | 6-chloro-5-methyl-pyridin-2-ylamine | 900 mg, 36% | ClC1=C(C=CC(=N1)N)C | C6H7ClN2
